US04546106
To a solution of 0.02 moles of o-carboxyphenyl o-carboxybenzenethiosulfonate in 200 ml. of 95% ethanol is added 0.02 moles of fine powdered 2-methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine. The reaction mixture is stirred overnight at room temperature and the resulting precipitate filtered to yield o-carboxyphenyl 2-methyl-3-hydroxy-5-vinylpyridin-4-ylmethyl disulfide.

reactant | o-carboxyphenyl o-carboxybenzenethiosulfonate | 0.02 moles | C(=O)(O)C1=C(C=CC=C1)S(=O)(OC1=C(C=CC=C1)C(=O)O)=S | C14H10O6S2
reactant | 2-methyl-3-hydroxy-4-mercaptomethyl-5-vinylpyridine | 0.02 moles | CC1=NC=C(C(=C1O)CS)C=C | C9H11NOS
solvent | ethanol | C(C)O | C2H6O
product | o-carboxyphenyl 2-methyl-3-hydroxy-5-vinylpyridin-4-ylmethyl disulfide | CC1=NC=C(C(=C1O)CSSC1=C(C=CC=C1)C(=O)O)C=C | C16H15NO3S2
